US04351974
11 g of iron powder were added to a solution of 110 g (1 mole) of 4-fluorotoluene in 165 ml of carbon tetrachloride. 160 g (1 mole) of bromine were added dropwise to this mixture at room temperature, the mixture was subsequently stirred for 24 hours, the solvent was distilled off under normal pressure and the residue was fractionated under normal pressure over a 10 cm Vigreux column. 26.4 g of unreacted 4-fluorotoluene were obtained as the first fraction at a boiling point of 114° to 117° C., and 78 g of a mixture consisting of 66% of 2-bromo-4-fluorotoluene, 24% of 3-bromo-4-fluorotoluene and 9% of dibromo-4-fluorotoluene were obtained as the second fraction at a boiling point of 175° to 185° C. Relative to the 4-fluorotoluene reacted, the yield of 2-bromo-4-fluorotoluene plus 3-bromo-4-fluorotoluene was 48% and that of 3-bromo-4-fluorotoluene was 11.4%.

reactant | 2-bromo-4-fluorotoluene | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | 3-bromo-4-fluorotoluene | BrC=1C=C(C=CC1F)C | C7H6BrF
product | dibromo-4-fluorotoluene | 9% | BrC=1C(=C(C=CC1F)C)Br | C7H5Br2F
